US07550461B2
7-Amino-benzo[b]thiophene-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide (0.100 g, 0.223 mmol), 4-(4-carboxy-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester (0.160 g, 0.432 mmol), HOBT (0.060 g, 0.444 mmol) and EDC (0.080 g, 0.417 mmol) were dissolved in DMF (7.0 mL) and stirred at room temperature under an Ar atmosphere for 42 h. The reaction mixture was transferred to a separatory funnel containing water and the aqueous layer was extracted with EtOAc (3×10 mL). The combined organic extracts were washed with water, NH4Cl, brine and dried over MgSO4. The solvent was filtered and evaporated on a rotary evaporator. The resultant crude product was purified by chromatography (60% EtOAc/hexane) to give the desired 4-{4-[2-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenylcarbamoyl)-benzo[b]thiophen-7-ylcarbamoyl]-benzenesulfonyl}-piperazine-1-carboxylic acid tert-butyl ester (25.5 mg).

reactant | 7-Amino-benzo[b]thiophene-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide | 0.223 mmol, 0.100 g | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C1=CC2=C(S1)C(=CC=C2)N)OC)NS(=O)(=O)C | C21H25N3O4S2
reactant | 4-(4-carboxy-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.432 mmol, 0.160 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(=O)O | C16H22N2O6S
reactant | HOBT | 0.444 mmol, 0.060 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.417 mmol, 0.080 g
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{4-[2-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenylcarbamoyl)-benzo[b]thiophen-7-ylcarbamoyl]-benzenesulfonyl}-piperazine-1-carboxylic acid tert-butyl ester | 25.5 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(NC1=CC=CC2=C1SC(=C2)C(NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)=O)=O | C37H45N5O9S3
